US05326910
In vacuo a mixture of cesium fluoride (1.2 g, 7.90 mmol), tetraglyme (2.4 g) and C3F7OCF(CF3)COF (5.22 g, 15.72 mmol) was stirred at -20° C. for 1 hour and at 0° C. also for 1 hour. Subsequently, the reaction was cooled to -196° C. and octafluoroisobutylene oxide (3.39 g, 15.70 mmol) was condensed into it. Next the reaction mixture was stirred at -22° C. for 17 hours and then at -17° C. for 24 hours. Following this operation the volatiles were removed and fractionated in vacuo through traps cooled to 0°, -23°, -47° and -196° C. The product, C3F7OCF(CF3)CF2OC(CF3)2COF, (4.15 g, 48% yield); VP 0° C. 0.5 mmHg, (following refractionation of the 0, -23 and -47 fractions) was collected in the -23° C. trap. The material was characterized by mass spectrometry in the form of its methyl ester, C3F7OCF(CF3)CF2OC(CF3)2CO2CH3, MS(70 eV) m/e (intensity,ion): 541 (65.8%, M-F), 491 (10.7%, M-CF3), 375 (72.5%, CF(CF3)CF 2 OC(CF3)2CO2CH3), 335 (60.6%, C3F7OCF(CF3)CF2), 275 (46.6%, CF2OC(CF3)2CO2CH3), 209 (67.3%, C(CF3)2CO2CH3).

reactant | cesium fluoride | 7.90 mmol, 1.2 g | [F-].[Cs+]
reactant | tetraglyme | 2.4 g | COCCOCCOCCOCCOC | C10H22O5
reactant | C3F7OCF(CF3)COF | 15.72 mmol, 5.22 g | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)(C(F)(F)F)C(=O)F | C6F12O2
reactant | octafluoroisobutylene oxide | 15.70 mmol, 3.39 g | FC1(C(C(F)(F)F)(C(F)(F)F)O1)F | C4F8O
product | C3F7OCF(CF3)CF2OC(CF3)2COF | 4.15 g, 48% yield | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)(C(F)(F)F)C(F)(F)OC(C(F)(F)F)(C(F)(F)F)C(=O)F | C10F20O3
